US07271266B2
To a portion of the methylene chloride (1 mL) solution of 2-(3,4-difluorobenzyloxy)-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3-carbonyl chloride (0.044 mmol) was added methylamine hydrochloride (6 mg, 0.088 mmol) and TEA (0.018 mL, 0.13 mmol). The reaction was stirred at rt for 16 h and was then evaporated. The residue was purified by preparative TLC eluted with 25% ethyl acetate in hexanes to yield N-(methyl)-2-(3,4-difluorobenzyloxy)-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3carboxamide. HPLC/MS: 533 (M+1), 535 (M+3); Rt=4.77 min

reactant | 2-(3,4-difluorobenzyloxy)-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3-carbonyl chloride | 0.044 mmol | FC=1C=C(COC2=NC(=C(C=C2C(=O)Cl)C2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C25H13Cl4F2NO2
reactant | methylamine hydrochloride | 0.088 mmol, 6 mg | Cl.CN
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(methyl)-2-(3,4-difluorobenzyloxy)-6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyridine-3carboxamide | CNC(=O)C=1C(=NC(=C(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)OCC1=CC(=C(C=C1)F)F | C26H17Cl3F2N2O2
